US04720590
To make the desired bisphenol from this diamine, we prepare a solution of 60 milliliters of concentrated hydrochloric acid, 200 milliliters of ice and 33.4 grams (0.1 mole) of 2,2-bis(3-aminophenyl)hexafluoropropane, and add thereto an aqueous solution of sodium nitrite (0.2 mole). We stir the mixture slowly, and heat to 80° C. for two hours. After the desired phenol separates, we extract it three times with 100 milliliters of ether each time, then wash the organic phase with water, sodium bicarbonate, and finally with saturated ammonium chloride. We then distill to obtain 33.6 grams of 2,2-bis(3-hydroxyphenyl)hexafluoropropane. From this bisphenol, we prepare the meta-substituted bisbenzenethiols of this invention following the same sequence of steps that produces the para-substituted bisbenzenethiols.

reactant | hydrochloric acid | 60 milliliters | Cl | ClH
reactant | 2,2-bis(3-aminophenyl)hexafluoropropane | 0.1 mole, 33.4 grams | NC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)N | C15H12F6N2
reactant | sodium nitrite | 0.2 mole | N(=O)[O-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2,2-bis(3-hydroxyphenyl)hexafluoropropane | 33.6 grams | OC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)O | C15H10F6O2
